US07378415B2
To a solution of 6-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (0.200 g., 0.727 mmol) in 0.5 mL chloroform was added bromoacetonitrile (0.100 mL, 1.45 mmol) and N,N-diisopropyl ethylamine (0.190 mL, 1.1 mmol). The solution was refluxed for 18 hours and cooled to room temperature. To the reaction mixture was added 15 mL dichloromethane and 20 mL water. The fractions were separated, and the organic fraction was washed with 50 mL water. The organic fraction was dried over Na2SO4, concentrated in vacuo, and the residue purified by flash chromatography (10-50% ethyl acetate in hexanes) to give 0.246 g (0.719 mmol, 99%) of (6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-acetonitrile as a clear oil. MS: 315 (M+H)+.

reactant | 6-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 0.727 mmol, 0.200 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(NCCO2)C1 | C14H13NO3S
reactant | bromoacetonitrile | 1.45 mmol, 0.100 mL | BrCC#N | C2H2BrN
reactant | N,N-diisopropyl ethylamine | 1.1 mmol, 0.190 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | chloroform | 0.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 20 mL | O | H2O
product | (6-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-acetonitrile | 0.719 mmol, 0.246 g, 99% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N(CCO2)CC#N)C1 | C16H14N2O3S
